US07829560B2
3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-piperidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B343).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-piperidin-1-yl-ethylamine according to conditions described in general procedure C. Mp: 98-100° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.42 (bs, 6 H), 2.06 (s, 2 H), 2.33 (s, 4 H), 2.55-2.94 (m, 2 H), 3.26 (t, J=4.4 Hz, 4 H), 3.77 (t, J=4.8 Hz, 4 H), 6.20-6.35 (bd, 1H), 6.95 (s, 1H), 7.04 (d, J=12.0 Hz, 1H), 7.26 (d, J=8.4 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 7.48 (s, 1H), 7.55-7.61 (m, 3H), 7.81-7.83 (m, 1H), 8.00 (d, J=8.4 Hz, 1H), 8.23 (s, 1H), 10.45 (s, 1H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-piperidin-1-yl-ethylamine | N1(CCCCC1)CCN | C7H16N2
product | 3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-piperidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCN2CCCCC2)C=C(C1)N1CCOCC1 | C32H35FN6O3
